US09428477B2
Production of 1-((E)-2-Decenoyl)-4-phenyl piperidine [Compound 16]
The same procedures as in Example 1 were carried out using (E)-2-decenoic acid and 4-phenylpiperidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | 1-((E)-2-Decenoyl)-4-phenyl piperidine | C(\C=C\CCCCCCC)(=O)N1CCC(CC1)C1=CC=CC=C1 | C21H31NO
